US07205325B2
6.90 g (30.4 mmol) 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylamide, 4.76 g (37.5 mmol) 1,3-dichloro acetone and 50 ml toluene were kept at reflux temperature for 48 h with continuous removal of water by applying a Dean-Stark trap. After removal of solvents in vacuo, the residue was treated with 60 ml of a 1:1 mixture of water/isopropanol. After filtration the precipitate was washed first with isopropanol, then with heptane. Drying at 40° C. in vacuo gave 4-Chloromethyl-2-[2-(2,2-difluoro-benzo[1,3]dioxol-5-yl)-vinyl]-oxazole.

reactant | 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylamide | 30.4 mmol, 6.90 g | FC1(OC2=C(O1)C=CC(=C2)C=CC(=O)N)F | C10H7F2NO3
reactant | 1,3-dichloro acetone | 37.5 mmol, 4.76 g | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(2,2-difluoro-benzo[1,3]dioxol-5-yl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC2=C(OC(O2)(F)F)C=C1 | C13H8ClF2NO3
